US06583162B1
3-[(E)-2-(1,3-Benzodioxol-5-yl)ethenyl]-5-chloro-2-pyridinamine
A solution of 3-bromo-5-chloro-2-pyridinamine (318 mg, 1.5 mmol), [(E)-2-(1,3-benzodioxol-5-yl)ethenyl](tributyl)stannane (250 mg, 1.7 mmol) (A. J. Bridges, A. Lee, C. E. Schwatrz, M. J. Towle, B. A. Littlefield, Bioorg. Med. Chem., 1993, 1, 403), palladium acetate (19 mg, 0.08 mmol) and tri-o-tolylphosphine (50 mg, 0.16 mmol) in DMF (0.5 ml) and triethylamine (0.5 ml) in a teflon pressure vessel was heated in a microwave (full power) for 20 sec, allowed to cool to RT heated in a microwave for a further 20 sec and then 1 min 20 sec. After allowing to cool, the reaction mixture was poured into water (20 ml) and extracted with EtOAc (3×20 ml). The combined extracts were washed with water (2×20 ml), dried over MgSO4 and concentrated. Recrystallisation from EtOAc—hexane gave the title compound as a brown solid (170 mg, 0.6 mmol):

reactant | 3-bromo-5-chloro-2-pyridinamine | 1.5 mmol, 318 mg | BrC=1C(=NC=C(C1)Cl)N | C5H4BrClN2
reactant | [(E)-2-(1,3-benzodioxol-5-yl)ethenyl](tributyl)stannane | 1.7 mmol, 250 mg | O1COC2=C1C=CC(=C2)/C=C/[Sn](CCCC)(CCCC)CCCC
reactant | tri-o-tolylphosphine | 0.16 mmol, 50 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | water | 20 ml | O | H2O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.08 mmol, 19 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[(E)-2-(1,3-Benzodioxol-5-yl)ethenyl]-5-chloro-2-pyridinamine | 0.6 mmol, 170 mg | O1COC2=C1C=CC(=C2)/C=C/C=2C(=NC=C(C2)Cl)N | C14H11ClN2O2
